US09315458B2
M) rac-4-chloro-3-hydroxy-2-(trans-2-hydroxycyclohexyl)-5-methoxy-6-[4-(1H-pyrazol-1-yl)benzyl]-2,3-dihydro-1H-isoindol-1-one
To a solution of rac-3-chloro-2-ethenyl-N-(trans-2-hydroxycyclohexyl)-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzamide (0.08 g) in a mixed solvent of acetone (2.00 mL)-acetonitrile (2.00 mL)-water (2.00 mL) were added potassium osmate(VI) dihydrate (5.00 mg) and sodium periodate (0.12 g), and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with saturated aqueous sodium thiosulfate solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.07 g) as a crude product. This compound was used in the next step without an additional purification.

reactant | rac-3-chloro-2-ethenyl-N-(trans-2-hydroxycyclohexyl)-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzamide | 0.08 g | ClC=1C(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)C=C | C26H28ClN3O3
reactant | acetone | 2.00 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 2.00 mL | C(C)#N | C2H3N
reactant | sodium periodate | 0.12 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | potassium osmate(VI) dihydrate | 5.00 mg | O.O.[O-][Os](=O)(=O)[O-].[K+].[K+]
solvent | water | 2.00 mL | O | H2O
product | rac-4-chloro-3-hydroxy-2-(trans-2-hydroxycyclohexyl)-5-methoxy-6-[4-(1H-pyrazol-1-yl)benzyl]-2,3-dihydro-1H-isoindol-1-one | 0.07 g | ClC1=C2C(N(C(C2=CC(=C1OC)CC1=CC=C(C=C1)N1N=CC=C1)=O)[C@H]1[C@@H](CCCC1)O)O | C25H26ClN3O4
